US04992462
2-(4-Fluorophenyl)-1,5-dimethyl-hexane-1,4-dione
A solution of 7.9 g (0.05 mol) of 1,5-diazabicyclo(5,4,0)undec-5-ene in 50 ml of acetonitrile is added dropwise at 0° C. to a solution of 19.2 g (0.1 mol) of 1-(4-fluorophenyl)-4-methyl-pent-1-en-3-one and 8.6 ml (0.12 mol) of nitroethane in 100 ml of acetonitrile. The mixture is then stirred at room temperature for 3 hours and 100 ml of 0.5 N hydrochloric acid are added. After extraction with methylene chloride, the organic phase is dried using sodium sulphate and concentrated. The oily residue is dissolved in 100 ml of ethanol and a solution of 4.8 g (0.12 mol) of sodium hydroxide in 60 ml of water is added at room temperature. This reaction solution is then added dropwise with ice cooling to a solution of 13.3 ml (0.25 mol) of concentrated sulphuric acid in 100 ml of water. After stirring for 0.5 hours at room temperature, the mixture is diluted with water and extracted several times with ether. The organic phase is washed twice each with 0.5 N hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate, concentrated in vacuo and the residue is chromatographed on silica gel.

reactant | 1,5-diazabicyclo(5,4,0)undec-5-ene | 0.05 mol, 7.9 g | N12CCCN=CC2CCCC1 | C9H16N2
reactant | 1-(4-fluorophenyl)-4-methyl-pent-1-en-3-one | 0.1 mol, 19.2 g | FC1=CC=C(C=C1)C=CC(C(C)C)=O | C12H13FO
reactant | nitroethane | 0.12 mol, 8.6 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | hydrochloric acid | 0.5 N, 100 ml | Cl | ClH
reactant | sodium hydroxide | 0.12 mol, 4.8 g | [OH-].[Na+]
reactant | sulphuric acid | 0.25 mol, 13.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 60 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(4-Fluorophenyl)-1,5-dimethyl-hexane-1,4-dione | FC1=CC=C(C=C1)C(C(=O)C)CC(C(C)C)=O | C14H17FO2
